US07781458B2
4-(4-chloro-N-methylanilino)quinoline
A solution of 4-chloroquinoline (5 mmol) and of 4-chloro-N-methylaniline (10 mmol) in glacial acetic acid (15 ml) was heated with reflux for 3 h under a stream of argon. After cooling, the solution was basified with a 10% NaOH solution until pH=10 and the resulting suspension was concentrated in a rotary evaporator and purified by means of flash chromatography (9:1, CH2Cl2:MeOH) to give the target molecule as a yellowish syrup (97%). 1H-NMR (400 MHz, CDCl3): δ 8.10 (d, J=8.5, 1H, H-2quin); 7.70 (d, J=8.5, 1H, H-5quin); 7.65 (t, J=7.9, 1H, H-7quin); 7.38 (t, J=8.5, 1H, H-6quin); 7.35 (d, J=7.9, 1H, H-8quin); 7.17 (d, J=8.9, 2H, H-3,5anil); 7.14 (d, J=8.5, 1H, H-3quin); 6.76 (d, J=8.9, 2H, H-2,6anil); 3.45 (s, 6H, Me). 13C-NMR (100 MHz, CDCl3): δ 153.37 (C-4quin); 151.16 (C-2quin); 150.01 (C-1anil); 148.17 (C-8aquin); 135.02 (C-4anil); 130.07 (C-7quin); 129.52 (C-6quin); 129.29 (C-3,5anil); 126.26 (C-4aquin); 126.07 (C-5quin); 124.40 (C-8quin); 119.79 (C-2,6anil); 115.08 (C-3quin); 41.75 (Me). HRMS (m/z): Calculated for C16H13N2Cl [(M+H)]+ 269.0845. Found: 269.0845. Analysis for C16H13N2Cl. Calculated: C, 71.51; H, 4.88; N, 10.42%. Found: C, 71.60; H, 4.71; N, 10.33%.

reactant | 4-chloroquinoline | 5 mmol | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 4-chloro-N-methylaniline | 10 mmol | ClC1=CC=C(NC)C=C1 | C7H8ClN
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-(4-chloro-N-methylanilino)quinoline | 97% | ClC1=CC=C(N(C)C2=CC=NC3=CC=CC=C23)C=C1 | C16H13ClN2
